US07652041B2
Step 2. Preparation of 4-[4-(3-anilino-3-oxopropyl)phenoxy]-N-methylpyridine-2-carboxamide (A-12)
A mixture of 3-(4-(2-(methylcarbamoyl)pyridin-4-yloxy)phenyl)-propanoic acid (100 mg, 0.33 mmol), aniline (0.033 mL, 0.36 mmol), and TBTU (117 mg, 0.36 mmol) in DCM (5 mL) was stirred at rt. To this slurry was added DIPEA (0.20 mL, 1.16 mmol). The mixture was allowed to stir at rt overnight and then diluted with water. The aqueous phase was separated and extracted with DCM. The organic solutions were combined, washed with brine, dried over MgSO4, filtered, and concentrated. The resulting solid was treated with MeOH and filtered to give 45 mg of a white solid. 1H NMR (400 MHz, d6-DMSO) δ: 9.90 (br s, 1H), 8.71-8.78 (m, 1H), 8.48 (d, J=5.6 Hz, 1H), 7.55-7.60 (m, 2H), 7.36-7.40 (m, 2H), 7.36 (d, J=2.4 Hz, 1H), 7.25-7.31 (m, 2H), 7.12-7.16 (m, 2H), 7.11 (dd, J=5.2, 2.4 Hz, 1H), 6.99-7.04 (m, 1H), 2.93-2.98 (m, 2H), 2.77 (d, J=4.8 Hz, 3H), and 2.64-2.69 (m, 2H).

reactant | 3-(4-(2-(methylcarbamoyl)pyridin-4-yloxy)phenyl)-propanoic acid | 0.33 mmol, 100 mg | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)CCC(=O)O | C16H16N2O4
reactant | aniline | 0.36 mmol, 0.033 mL | NC1=CC=CC=C1 | C6H7N
reactant | TBTU | 0.36 mmol, 117 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 1.16 mmol, 0.20 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-[4-(3-anilino-3-oxopropyl)phenoxy]-N-methylpyridine-2-carboxamide | 45 mg | N(C1=CC=CC=C1)C(CCC1=CC=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)=O | C22H21N3O3
